US07192968B2
(1S,2R,4S)-1-Azido-2-(N-tert-butoxycarbonylamino)-4-methoxycarbonylcyclohexane (509 mg) was dissolved in tetrahydrofuran (40.0 ml), lithium hydroxide (111 mg) and water (5.0 ml) were successively added under ice cooling, and the mixture was stirred at room temperature for 36.5 hours. The solvent was distilled off under reduced pressure, water and 1N hydrochloric acid (4.64 ml) were added to the residue, and the solvent was distilled off again under reduced pressure to obtain crude (1S,2R,4S)-1-azido-2-(N-tert-butoxycarbonylamino)-4-carboxycyclohexane. Dichloromethane (25 ml) and N,N-dimethylformamide (260 μl) were added to this crude product, and the mixture was stirred under ice cooling. Further, oxalyl chloride (216 μl) was added to continuously stir the mixture at room temperature for 1 hour. tert-Butylamine (1130 μl) was added to the reaction mixture under ice cooling to stir the mixture at room temperature for 14 hours. After water and dichloromethane were added to the reaction mixture to conduct liquid separation, the resultant organic layer was dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by flash column chromatography on silica gel (hexane:ethyl acetate=2:1) to obtain the title compound (197 mg) as a pale yellow amorphous substance.

reactant | (1S,2R,4S)-1-Azido-2-(N-tert-butoxycarbonylamino)-4-methoxycarbonylcyclohexane | 509 mg | N(=[N+]=[N-])[C@@H]1[C@@H](C[C@H](CC1)C(=O)OC)NC(=O)OC(C)(C)C | C13H22N4O4
reactant | lithium hydroxide | 111 mg | [OH-].[Li+]
reactant | water | 5.0 ml | O | H2O
solvent | tetrahydrofuran | 40.0 ml | O1CCCC1 | C4H8O
product | (1S,2R,4S)-1-azido-2-(N-tert-butoxycarbonylamino)-4-carboxycyclohexane | N(=[N+]=[N-])[C@@H]1[C@@H](C[C@H](CC1)C(=O)O)NC(=O)OC(C)(C)C | C12H20N4O4
